US08039460B2
2-{1-[(6S,9R)-9-Amino-6-(2,6-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl]-1-methylethoxy}ethanol
Methanesulfonic acid (78 μL, 1.19 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,6-difluorophenyl)-3-(1-methoxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate (104 mg, 0.24 mmol) in ethylene glycol (4 mL) and the mixture heated to 60° C. After 18 h, the reaction mixture was concentrated. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×), and the combined organic extracts were washed with saturated brine, dried over sodium sulfate, filtered and concentrated. MS 366.1 (M+1).

reactant | Methanesulfonic acid | 1.19 mmol, 78 μL | CS(=O)(=O)O | CH4O3S
reactant | tert-butyl [(6S,9R)-6-(2,6-difluorophenyl)-3-(1-methoxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 0.24 mmol, 104 mg | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)(C)OC)NC(OC(C)(C)C)=O | C23H31F2N3O3
reactant | ethylene glycol | 4 mL | C(CO)O | C2H6O2
product | 2-{1-[(6S,9R)-9-Amino-6-(2,6-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl]-1-methylethoxy}ethanol | N[C@H]1C=2N(C[C@@H](CC1)C1=C(C=CC=C1F)F)C(=CN2)C(C)(OCCO)C | C19H25F2N3O2
